US04359420
A solution of 4.8 g (18.7 mmol) of 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3carboxaldehyde-3-oxime in 50 ml of acetic acid anhydride is heated to boiling under reflux for 28 hours. After evaporation of the mixture in vacuo, the residue is taken up in 150 ml of chloroform and washed twice with 30 ml of saturated sodium hydrogen carbonate solution each time and with 30 ml of water. The organic phase is dried over magnesium sulphate and evaporated. After column chromatography on silica gel and recrystallisation from ethyl acetate, there is obtained 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine -3-carbonitrile of melting point 184°-186° C.

reactant | 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3carboxaldehyde-3-oxime | 18.7 mmol, 4.8 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C=NO | C13H12N4O2
solvent | acetic acid anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine -3-carbonitrile | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C#N | C13H10N4O
